US06248740B1
Production of 6-[3-[4-(diphenylmethoxy)piperidino]propoxy]-2-methyl[1,2,4]triazolo[1,5-b]pyridazine
4-(Diphenylmethoxy)-1-piperidinepropanol (743 mg) was dissolved in dried terahydrofuran (17 ml), followed by addition of sodium t-butoxide (241 mg). The mixture was heated to 60° C. and stirred for 30 minutes. After the mixture was cooled, 6-chloro-2-methyl[1,2,4]triazolo[1,5-b]pyridazine (384 mg) was added thereto, followed by reflux under heating for 21 hours. After the mixture was cooled, ice-water was added thereto, followed by extraction with ethyl acetate. The extract was washed with an aqueous sodium chloride saturated solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica-gel column chromatography and eluted with a mixture of ethyl acetate, methanol and triethylamine (50:5:1). Fractions containing the objective compound were collected. The resulting crystals were washed with ethylether and dried to yield the title compound (700 mg).

reactant | 4-(Diphenylmethoxy)-1-piperidinepropanol | 743 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCO)C1=CC=CC=C1 | C21H27NO2
reactant | sodium t-butoxide | 241 mg | CC(C)([O-])C.[Na+]
reactant | 6-chloro-2-methyl[1,2,4]triazolo[1,5-b]pyridazine | 384 mg | ClC=1C=CC=2N(N1)N=C(N2)C | C6H5ClN4
solvent | terahydrofuran | 17 ml | O1CCCC1 | C4H8O
product | 6-[3-[4-(diphenylmethoxy)piperidino]propoxy]-2-methyl[1,2,4]triazolo[1,5-b]pyridazine | 700 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC=1C=CC=2N(N1)N=C(N2)C)C2=CC=CC=C2 | C27H31N5O2
